US08476434B2
To 2,4-dichloro-5-fluoropyrimidine (500 mg, 2.99 mmol), 2-chloropyridine-3-boronic acid (707 mg, 4.49 mmol), Pd(PPh3)4 (346 mg, 0.30 mmol) was added DME (9.0 mL) and 1 M NaHCO3 (3.0 mL). The mixture was heated overnight in a sealed tube at 80° C., cooled to RT, diluted with EtOAc, and washed with water and saturated Na2CO3. The organic layer was dried over Na2SO4, filtered, concentrated and purified by reverse-phase HPLC to provide 2-chloro-4-(2-chloro-pyridin-3-yl)-5-fluoro-pyrimidine. MS m/z=244, 246 [M]+ and [M+2]+. Calc'd for C9H4Cl2FN3: 244.06.

reactant | 2,4-dichloro-5-fluoropyrimidine | 2.99 mmol, 500 mg | ClC1=NC=C(C(=N1)Cl)F | C4HCl2FN2
reactant | 2-chloropyridine-3-boronic acid | 4.49 mmol, 707 mg | ClC1=NC=CC=C1B(O)O | C5H5BClNO2
reactant | DME | 9.0 mL | COCCOC | C4H10O2
reactant | NaHCO3 | 1 M, 3.0 mL | C(=O)(O)[O-].[Na+]
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | Pd(PPh3)4 | 0.30 mmol, 346 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-chloro-4-(2-chloro-pyridin-3-yl)-5-fluoro-pyrimidine | ClC1=NC=C(C(=N1)C=1C(=NC=CC1)Cl)F | C9H4Cl2FN3
